Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Loss of consciousness
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ yo healthy M presenting with bradycardia and syncope. The 
patient had a witnessed syncopal event while on the T, where he 
was noted to be diaphoretic, lightheaded, and looked generally 
unwell. He reportedly lost consciousness for 10 seconds without 
antecedent chest pain or shortness of breath. He slowly sat up, 
and EMS was called and brought the him to ___. He has had no 
prior history of fainting spells or passing out. He notes some 
decreased PO intake this AM that may have contributed, but 
otherwise reports being in his usual state of health. 

In the ED initial vitals were: T 98.1 HR 44 BP 83/50 RR 14 SaO2 
100% on RA. Patient was given 1.5 L NS over a number of hours. 
Vitals on transfer: T 97.7 HR 81 BP 117/77 RR 16 SaO2 99% on RA.

After arrival to the cardiology ward, the patient noted that he 
feels well. He denied any lightheadedness, chest pain or 
shortness. He denied ever feeling palpitations with this episode 
or otherwise.
 
Past Medical History:
None
 
Social History:
___
Family History:
No family history of cardiac disease. Sister with breast cancer. 
Distant cousin died suddenly at age ___.
 
Physical Exam:
On admission
GENERAL: ___ elderly Middle Eastern man in NAD. Oriented x3. 
Mood, affect appropriate.
VS: T 97.7 HR 56 BP 117/77 RR 16 SaO2 99% on RA
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthelasma.
NECK: Supple
CARDIAC: PMI located in ___ intercostal space, midclavicular 
line. RRR, normal S1, S2. No murmurs, rubs, gallops. No thrills, 
lifts.
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. No crackles, wheezes or 
rhonchi.
ABDOMEN: Soft, non-tender, not distended. No HSM.
EXTREMITIES: No clubbing, cyanosis or edema. No femoral bruits.
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
PULSES: Distal pulses palpable and symmetric

At discharge
GEN: Well-appearing man sitting at edge of bed eating breakfast, 
speaking full sentences on RA, in NAD
VS: T = 97.9 F, HR = 52 bpm, BP = 113/66, RR = 18 bpm, SpO2 = 97 
% on RA
HEENT: Normocephalic and atraumatic 
CARDIAC: Normal rate, regular rhythm. Normal S1 and S2. No 
murmurs, rubs or gallops. JVP flat.
LUNGS: Clear to auscultation bilaterally without wheezes, 
rhonchi or rales. Good aeration throughout.
ABDOMEN: Soft, non-tender, not distended
EXTREMITIES: Warm and well-perfused, DP and ___ 2+ and symmetric, 
no ___ edema, tortuous and engorged veins in LLE
 
Pertinent Results:
___ 08:25AM BLOOD WBC-3.9* RBC-4.73 Hgb-14.2 Hct-44.3 
MCV-94 MCH-30.0 MCHC-32.1 RDW-13.6 RDWSD-46.0 Plt ___
___ 08:25AM BLOOD Neuts-41.4 ___ Monos-12.4 Eos-5.3 
Baso-1.0 Im ___ AbsNeut-1.63 AbsLymp-1.52 AbsMono-0.49 
AbsEos-0.21 AbsBaso-0.04

___ 12:30PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 12:30PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR* 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-NEG
___ 12:30PM URINE  RBC-<1 WBC-1 BACTERIA-NONE YEAST-NONE 
EPI-0
___ 12:30PM URINE  MUCOUS-FEW*

___ 08:25AM BLOOD Glucose-127* UreaN-16 Creat-1.3* Na-142 
K-5.1 Cl-102 HCO3-21* AnGap-19*
___ 08:25AM BLOOD cTropnT-<0.01
___ 08:25AM BLOOD Calcium-9.3 Phos-3.6 Mg-2.1

___ 04:30AM BLOOD Calcium-8.7 Phos-3.2 Mg-2.1 Cholest-172
___ 04:30AM BLOOD Triglyc-102 HDL-34* CHOL/HD-5.1 
LDLcalc-118

CXR: ___
The lungs are clear. There is no focal consolidation. No 
significant effusion nor edema. Cardiomediastinal silhouette is 
within normal limits. No acute osseous abnormalities.
IMPRESSION: No acute cardiopulmonary process. 

Echocardiogram ___
The left atrium is normal in size. No atrial septal defect is 
seen by 2D or color Doppler. Normal left ventricular wall 
thickness, cavity size, and regional/global systolic function 
(biplane LVEF = 65 %). Tissue Doppler imaging suggests a normal 
left ventricular filling pressure (PCWP<12mmHg). Doppler 
parameters are most consistent with normal left ventricular 
diastolic function. There is no left ventricular outflow 
obstruction at rest or with Valsalva. Right ventricular chamber 
size and free wall motion are normal. The ascending aorta is 
mildly dilated. The aortic arch is mildly dilated. The aortic 
valve leaflets (3) are mildly thickened but aortic stenosis is 
not present. Trace aortic regurgitation is seen. The mitral 
valve leaflets are mildly thickened. There is no mitral valve 
prolapse. Mild (1+) mitral regurgitation is seen. There is 
borderline pulmonary artery systolic hypertension. There is no 
pericardial effusion. 
IMPRESSION: No structural cardiac cause of syncope identified. 
Normal biventricular wall thickness, cavity size, and 
regional/global systolic function. Normal diastolic function. 
Mild mitral regurgitation. Borderline elevated pulmonary artery 
pressures. 

DISCHARGE LABS
___ 04:30AM BLOOD WBC-4.6 RBC-4.09* Hgb-12.4* Hct-38.5* 
MCV-94 MCH-30.3 MCHC-32.2 RDW-13.8 RDWSD-47.2* Plt ___
___ 04:30AM BLOOD Glucose-93 UreaN-15 Creat-1.1 Na-143 
K-4.5 Cl-107 HCO3-23 AnGap-13
___ 04:30AM BLOOD Calcium-8.7 Phos-3.2 Mg-2.1 Cholest-172
 
Brief Hospital Course:
Mr ___ is a ___ yo M with no significant PMH presenting with 
syncope while a passenger in a subway car. On presentation to 
the ED, he was found to be bradycardic to 44 bpm and hypotensive 
to 83/50, with improvement to HR = 81 bpm and BP = 117/77 after 
2.5 L NS and complete resolution of symptoms.

ACTIVE PROBLEMS:
# Syncope: Mr ___ reported weakness in his legs, diaphoresis 
and nausea in a humid subway car during a period of emotional 
stress and after having skipped breakfast. He states he 
experienced no loss of consciousness or fall, but other 
witnesses reported 10 seconds of loss of consciousness. His 
symptoms improved somewhat upon lying flat and resolved 
completely following 2.5 L NS bolus. This was suggestive of high 
vagal tone in the setting of some intravascular volume 
depletion. Cardiac enzymes were negative and ECG demonstrated 
RBBB without ischemic changes. Telemetry overnight revealed 
sinus bradycardia, PACs and ventricular bigeminy without any 
concerning or symptomatic bradyarrhythmias or tachyarrhythmias. 
His orthostatic vital signs were within normal limits. TTE 
demonstrated LVEF = 65%, no structural abnormalities with mild 
mitral regurgitation and borderline pulmonary hypertension. 
Given the complete resolution of symptoms, he was discharged 
home with planned cardiac monitoring with ___ of Hearts 
monitor (to be followed by his new Cardiologist, Dr ___ 
___, in ___. He was discharged on no medications.

TRANSITIONAL ISSUES:
- No new medications
- Discharged with ___ of Hearts monitor and instructions for 
using it
- Patient to f/u w/ his PCP, ___, and with his new 
cardiologist, Dr. ___

#CONTACT: ___ - ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications
 
Discharge Medications:
None
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
-Syncope, likely vasovagal
-Sinus bradycardia
-Hypotension from intravascular volume depletion
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you. You were admitted to the 
hospital because you had an episode of fainting. We believe this 
was from a "vasovagal" event during which you briefly did not 
have enough blood flow to your brain. This could have been 
caused by prolonged standing, heat, not enough fluid intake, or 
stress. We did tests to look for abnormal rhythms in your heart 
or for evidence of a blockage. These did not show any concerning 
findings. You had an ultrasound picture of your heart, called an 
echocardiogram, which showed normal squeeze and heart function.

When you are discharged from the hospital, you will be sent with 
___ of Hearts monitor. This will be attached to you and will 
monitor you for abnormal heart rhythms that might have been 
responsible for your episode of fainting. It will also have a 
feature that will let you press a button if you are symptomatic. 
You will follow up with your PCP and with Dr. ___ new 
cardiologist, in ___.

All our best,

Your ___ Care Team
 
Followup Instructions:
___